2192-09-29 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2192-9-28**] 08:54 PM
 STOOL CULTURE - At [**2192-9-29**] 02:00 AM
   NG placed
 MULTI LUMEN - START [**2192-9-29**] 05:00 AM
   Had small run of VT when line was being placed, stopped as soon as line
   was re-inserted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt with facemask on
   Flowsheet Data as of  [**2192-9-29**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 80 (76 - 95) bpm
   BP: 103/56(66) {73/33(43) - 103/65(70)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,400 mL
                                                                  3,750 mL
   PO:
           TF:
   IVF:
                                                                  1,400 mL
                                                                  3,000 mL
   Blood products:
   750 mL
   Total out:
                                                                    630 mL
                                                                  3,250 mL
   Urine:
                                                                    230 mL
                                                                    550 mL
   NG:
   700 mL
   Stool:
   Drains:
   Balance:
                                                                  2,770 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/27/72/21/0
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Thin, ill appearing, NG in place
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli
   Labs / Radiology
   145 K/uL
   8.1 g/dL
   99 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.3 mEq/L
   50 mg/dL
   111 mEq/L
   141 mEq/L
   23.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2192-9-28**]  08:21 PM
                            [**2192-9-28**]  09:01 PM
                            [**2192-9-29**]  05:06 AM
   WBC
   7.6
   6.6
   Hct
   22.3
   23.5
   Plt
   171
   145
   Cr
   1.3
   TropT
   0.10
   TCO2
   22
   Glucose
   99
   Other labs: CK / CKMB / Troponin-T:139//0.10, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: Febrile, hypoxic, hypotension now responsive to IVF. Lactate
   2.0. Known to be bacteremic with GPC's.  ? new RUL PNA.  CT abd/pelvis
   shows "early SBO" but without inflammation or abcess. LFT's nl.
   - IVF boluses to keep MAP >65
   - Vanc, Zosyn, Levofloxacin
   - f/u blood and urine cx
   .
   # AMS: Likely multifactorial with hypoxia, infection, fevers and anemia
   - Will continue to tx underlying cause
   - Will give haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Now 23.5. No sign of overt bleeding w/o
   hematemasis, melena or tender abdomen. However, pt is mildly Guiac +.
   - serial HCT
   - transfuse for Hb<7 or HCT < 25
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.
   - cycle enzymes
   - improve BP
   - transfuse for Hb<7, HCT <25
   .
   # ARF: baseline Cr 0.9, cr now 1.3. Likely prerenal
   - follow lytes
   - IVF
   .
   # Early SBO:
   - NGT decompression
   - bowel rest/ NPO
   - surgery  following
   ..
   # Hx depression:
   - cont venlaflaxine
   .
   # FEN: NPO / Replete PRN/ Bolus NS to keep CVP 8-12.
   .
   #. Code: Full Code
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-9-28**] 07:12 PM
   Multi Lumen - [**2192-9-29**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known lastname 3002**] 80M recent ventral hernia surgery, now with UTI and ?pna and
   diarrhea and SBO, altered mental status, anemia, hypotension overnight
   though did not need pressors
   Exam notable for Tm 100.6   HR  80  BP 108/58  RR 27  with 99 sat on
   100%NRB awake, alert, mild respiratory distress, lung with congestion,
   abdomen benign
   Labs notable for WBC 7K, HCT 23  , Na 141 ,K+  3.3, HCO3 21 ,Cr 1.3
   ,lactate 1.4
   Imaging: abdominal CT - partial SBO, bibasilar consolidation, CXR left
   base opacity
   Problems: UTI, anemia, pna, SBO, hypoxemia, recent ventral hernia
   repair, diarrhea, GI bleed
   Agree with plan to continue NG suction, NPO, antibiotics for UTI and
   pna, wean O2 as tolerated, check CDiff, continue volume resuscitation,
   follow Hct, make GI aware
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 38 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2192-9-29**] 14:08 ------

2192-09-30 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GI consult - no scoping
   - A line re-sited
   - Blood and urine Cultures: (MRSA)
   - Lactate resolved to 0.9
   - Trending HCT - stable for now.
   - Surgery - no indications for operative intervention at this time.
 ARTERIAL LINE - START [**2192-9-29**] 02:16 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-9-29**] 01:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-9-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-9-29**] 01:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-30**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
F). 101.4
   Tcurrent: 37.4
C (99.4
   HR: 84 (79 - 94) bpm
   BP: 96/41(61) {80/41(1) - 127/59(344)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (-1 - 5)mmHg
   Mixed Venous O2% Sat: 66 - 66
   Total In:
                                                                  5,519 mL
                                                                    158 mL
   PO:
   TF:
   IVF:
                                                                  4,769 mL
                                                                    158 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  5,325 mL
                                                                    470 mL
   Urine:
                                                                  2,075 mL
                                                                    470 mL
   NG:
                                                                  1,250 mL
   Stool:
   Drains:
   Balance:
                                                                    194 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.43/29/86/17/-3
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt moaning,
   responding to some questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse
   BL:, NO w/r/r anteriorly )
   Abdominal: Soft, Non-tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli
   Labs / Radiology
   197 K/uL
   8.9 g/dL
   106 mg/dL
   1.2 mg/dL
   17 mEq/L
   3.6 mEq/L
   42 mg/dL
   121 mEq/L
   148 mEq/L
   25.7 %
   9.3 K/uL
        [image002.jpg]
   Prior HCT 26 Prior Na 146 HCO3 trending down, 20, 19, 18, now 17
                            [**2192-9-28**]  08:21 PM
                            [**2192-9-28**]  09:01 PM
                            [**2192-9-29**]  05:06 AM
                            [**2192-9-29**]  09:57 AM
                            [**2192-9-29**]  03:33 PM
                            [**2192-9-29**]  03:50 PM
                            [**2192-9-30**]  03:48 AM
   WBC
   7.6
   6.6
   9.3
   Hct
   22.3
   23.5
   25.9
   26.0
   25.7
   Plt
   171
   145
   197
   Cr
   1.3
   1.1
   1.1
   1.2
   TropT
   0.10
   0.09
   TCO2
   22
   20
   Glucose
   99
   101
   116
   106
   Other labs: PT / PTT / INR:16.3/43.6/1.5, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Fibrinogen:532 mg/dL,
   Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:2.7 mg/dL, PO4:2.7 mg/dL
   Micro: Blood cx MRSA [**1-7**], GPC [**1-7**]
   Urine cx MRSA, fecal cx C diff pending
   Blood cx [**9-30**] NGTD
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: Febrile, hypoxic, hypotension now responsive to IVF c/w
   sepsis. Lactate 2.0 has now trended down to 0.9. Has bacteremia with
   MRSA. Possibel sources include UTI given MRSA in urine, PNA given
   hypoxia, ? new RUL PNA ([**Month (only) 51**] have aspirated as well), or GI source given
   recent surgery although translocation would be unlikely cause MRSA
   bacteremia.  CT abd/pelvis shows "early SBO" but without inflammation
   or abcess. LFT's nl.
   - IVF boluses to keep MAP >65
   - Vanc, Zosyn, Levofloxacin
   - f/u blood and urine cx, C diff, fecal cx and sensitivities
   - Surveillance cx, cx again today given fever to 101.4.
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Now stable at 25.7. No sign of overt
   bleeding w/o hematemasis, melena or tender abdomen. However, mildly
   Guiac +.Last transfused [**9-29**] 2am. HCT stable since.
   - serial HCT [**Hospital1 7**]
   - transfuse for Hb<7 or HCT < 25 or active bleed
   - PPI IV BID for ? GIB
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.
   - cycled enzymes, Trop down
   - improve BP
   - transfuse for Hb<7, HCT <25
   .
   # ARF: baseline Cr 0.9, cr now 1.2, trending down. Likely prerenal
   - follow lytes, Cr
   - IVF
   - Maintain BP
   .
   # Early SBO: Abdominal exam benign
   - NGT decompression to low intermittent suction
   - NPO
   - surgery  following, confirmed ok to start TFs
   ..
   # Hx depression:
   - cont venlaflaxine
   .
   # FEN: NPO / Replete PRN/ Bolus NS to keep CVP 8-12. Will start TFs
   today (confirmed ok with surgery). Worsening acidosis (increased
   bicarb) in setting of improved lactate likely [**1-7**] NGT to suction. Will
   change to low intermittent suction and follow
   .
   #. Code: Full Code
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-9-28**] 07:12 PM
   Multi Lumen - [**2192-9-29**] 05:00 AM
   Arterial Line - [**2192-9-29**] 02:16 PM

2192-10-01 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2192-9-30**] 10:00 AM, cultured
   NGT dislodged, replaced. CXR repeated, position ok
   Given lasix 20 IV x 110/26, repeated [**10-1**] for pulmonary edema on CXR
   Added prn oxycodone for pain, mets. c/o pain "all over"
   ? Anxiety: Was on klonopin prior to admission per duaghter who is
   psychiatrist and thinks pt may be anxious
   C diff neg
   Echo ordered for bacteremia
   TFs started, confirmed ok with surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2192-9-30**] 05:11 PM
   Vancomycin - [**2192-9-30**] 08:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-10-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-9-30**] 08:00 PM
   Pantoprazole (Protonix) - [**2192-10-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-1**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 86 (74 - 90) bpm
   BP: 112/57(81) {81/39(55) - 130/62(93)} mmHg
   RR: 23 (13 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (0 - 6)mmHg
   Total In:
                                                                  1,544 mL
                                                                    611 mL
   PO:
   TF:
                                                                     60 mL
                                                                     96 mL
   IVF:
                                                                  1,444 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,688 mL
                                                                    700 mL
   Urine:
                                                                  2,613 mL
                                                                    700 mL
   NG:
                                                                     25 mL
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,144 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 97%
   ABG: 7.46/27/66/19/-2
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt moaning,
   responding to some questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse
   BL:, NO w/r/r anteriorly )
   Abdominal: Soft, Non-tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli
   Labs / Radiology
   197 K/uL
   8.9 g/dL
   118 mg/dL
   1.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   36 mg/dL
   122 mEq/L
   149 mEq/L
   25.5 %
   9.3 K/uL
        [image002.jpg]
                            [**2192-9-28**]  08:21 PM
                            [**2192-9-28**]  09:01 PM
                            [**2192-9-29**]  05:06 AM
                            [**2192-9-29**]  09:57 AM
                            [**2192-9-29**]  03:33 PM
                            [**2192-9-29**]  03:50 PM
                            [**2192-9-30**]  03:48 AM
                            [**2192-9-30**]  04:19 PM
                            [**2192-9-30**]  04:32 PM
   WBC
   7.6
   6.6
   9.3
   Hct
   22.3
   23.5
   25.9
   26.0
   25.7
   25.5
   Plt
   171
   145
   197
   Cr
   1.3
   1.1
   1.1
   1.2
   1.1
   TropT
   0.10
   0.09
   TCO2
   22
   20
   20
   Glucose
   99
   101
   116
   106
   118
   Other labs: PT / PTT / INR:16.3/43.6/1.5, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Fibrinogen:532 mg/dL,
   Lactic Acid:0.9 mmol/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: Febrile, hypoxic, hypotension now responsive to IVF c/w
   sepsis. Lactate 2.0 has now trended down to 0.9. Has bacteremia with
   MRSA. Possibel sources include UTI given MRSA in urine, PNA given
   hypoxia, ? new RUL PNA ([**Month (only) 51**] have aspirated as well), or GI source given
   recent surgery although translocation would be unlikely cause MRSA
   bacteremia.  CT abd/pelvis shows "early SBO" but without inflammation
   or abcess. LFT's nl.
   - IVF boluses to keep MAP >65
   - Vanc, Zosyn, Levofloxacin
   - f/u blood and urine cx, C diff, fecal cx and sensitivities
   - Surveillance cx, cx again today given fever to 101.4.
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Now stable at 25.7. No sign of overt
   bleeding w/o hematemasis, melena or tender abdomen. However, mildly
   Guiac +.Last transfused [**9-29**] 2am. HCT stable since.
   - serial HCT [**Hospital1 7**]
   - transfuse for Hb<7 or HCT < 25 or active bleed
   - PPI IV BID for ? GIB
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.
   - cycled enzymes, Trop down
   - improve BP
   - transfuse for Hb<7, HCT <25
   .
   # ARF: baseline Cr 0.9, cr now 1.2, trending down. Likely prerenal
   - follow lytes, Cr
   - IVF
   - Maintain BP
   .
   # Early SBO: Abdominal exam benign
   - NGT decompression to low intermittent suction
   - NPO
   - surgery  following, confirmed ok to start TFs
   ..
   # Hx depression:
   - cont venlaflaxine
   .
   # FEN: NPO / Replete PRN/ Bolus NS to keep CVP 8-12. Will start TFs
   today (confirmed ok with surgery). Worsening acidosis (increased
   bicarb) in setting of improved lactate likely [**1-7**] NGT to suction. Will
   change to low intermittent suction and follow
   .
   #. Code: Full Code
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-9-30**] 08:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-9-29**] 05:00 AM
   Arterial Line - [**2192-9-29**] 02:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-02 05:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PICC line inserted
   d/c zosyn/levo yesterday morning
   Echo showed aortic valve thickening, cardiology recommending TEE
   Received 20mg IV Lasix 9pm last night for goal -1L, repleted K and phos
   At 2am, noted to be hypoxic at 80% on 2L nc.  O2 increased to 4L and
   saturations in high 80s. ABG done on 4L nc 7.48/30/60, CXR done, pt put
   on high-flow face mask, oygenation improved to 98%, able to be titrated
   down
   Was given 20mg IV Lasix at 5am for worsening pulmonary edema on CXR
 TRANSTHORACIC ECHO - At [**2192-10-1**] 10:00 AM
 PICC LINE - START [**2192-10-1**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2192-9-30**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-10-1**] 08:00 AM
   Vancomycin - [**2192-10-1**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-2**] 12:30 AM
   Furosemide (Lasix) - [**2192-10-2**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-2**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 89 (79 - 91) bpm
   BP: 133/61(90) {92/37(58) - 149/68(104)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (-1 - 8)mmHg
   Total In:
                                                                  3,022 mL
                                                                    463 mL
   PO:
   TF:
                                                                    712 mL
                                                                    248 mL
   IVF:
                                                                  1,050 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  4,140 mL
                                                                    830 mL
   Urine:
                                                                  4,140 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,118 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow nasal cannula
   SpO2: 97%
   ABG: 7.48/30/60/24/0
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt moaning,
   responding to some questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   left-sided ant-lat crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  left foot cooler than right.
   Neurologic: Responds to: Verbal stimuli
   Labs / Radiology
   238 K/uL
   8.6 g/dL
   114 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   24 mg/dL
   118 mEq/L
   150 mEq/L
   25.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2192-9-29**]  03:33 PM
                            [**2192-9-29**]  03:50 PM
                            [**2192-9-30**]  03:48 AM
                            [**2192-9-30**]  04:19 PM
                            [**2192-9-30**]  04:32 PM
                            [**2192-10-1**]  05:15 AM
                            [**2192-10-1**]  05:28 AM
                            [**2192-10-1**]  03:06 PM
                            [**2192-10-2**]  02:09 AM
                            [**2192-10-2**]  02:58 AM
   WBC
   9.3
   10.0
   12.5
   Hct
   26.0
   25.7
   25.5
   24.9
   25.2
   Plt
   197
   191
   238
   Cr
   1.1
   1.2
   1.1
   1.1
   1.1
   1.0
   TCO2
   20
   20
   22
   23
   Glucose
   116
   106
   118
   142
   137
   114
   Other labs: PT / PTT / INR:15.0/28.1/1.3, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Fibrinogen:532 mg/dL,
   Lactic Acid:0.9 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL;
   free Ca++ 1.04
   ABG: 7.45 / 37/ 79 / 27
   Blood cultures
 no growth from [**9-30**] forward
   ECHO: LVEF > 55%, aortic rot mildly dilated; aortic valve leaflets
   moderately thickened, vegetation cannot be excluded, recommend TEE;
   [**12-7**]+ MR
   CXR: PICC line terminates @ brachiocephalic vein & SVC
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension. Lactate 2.0
   has now trended down to 0.9.
   - Cont. Vancomycin for MRSA in blood and sputum
   - IVF boluses to keep MAP >65
   - f/u blood and urine cx, C diff, fecal cx and sensitivities
   - Surveillance cx
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.
   - Cont. vancomycin as above
   - Bedside ultrasound today to assess pleural effusions; consider
   thoracentesis if large
   - Elevate head of bed and chest PT
   - Cont. diuresis with goal -1 to 1.5 L today
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Trending down, currently 24.9. No sign of
   overt bleeding w/o hematemasis, melena or tender abdomen. However,
   mildly Guiac +.Last transfused [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP
   - transfuse for Hb<7, HCT <25
   .
   # ARF: baseline Cr 0.9, cr now 1.0, trending down. Likely prerenal
   - follow lytes, Cr
   - IVF
   - Maintain BP
   .
   # Early SBO: Abdominal exam benign
   - surgery  following, confirmed ok to start TFs
   ..
   # Hx depression:
   - cont venlaflaxine
   - will confirm Klonopin
   .
   # FEN: NPO / Replete PRN/ Bolus NS to keep CVP 8-12. Tube feeds started
   [**9-30**]; calculate free water deficit and increase free water boluses as
   appropriate.
   .
   #. Code: Full Code
   .
   # Access: PICC placed [**10-1**]; A-line; will d/c IJ today
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-2**] 12:37 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-9-29**] 05:00 AM
   Arterial Line - [**2192-9-29**] 02:16 PM
   PICC Line - [**2192-10-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-03 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received Lasix 20mg IV X 2 yesterday with appropriate urine output
   response.  At 4 am near goal with UOP (-)800cc.  Free water flushed
   increased for hypernatremia.  IJ was removed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2192-9-30**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-10-1**] 08:00 AM
   Vancomycin - [**2192-10-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-3**] 12:37 AM
   Pantoprazole (Protonix) - [**2192-10-3**] 12:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-3**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 88 (80 - 91) bpm
   BP: 111/39(61) {107/38(61) - 136/61(93)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 9)mmHg
   Total In:
                                                                  2,893 mL
                                                                    824 mL
   PO:
   TF:
                                                                  1,173 mL
                                                                    314 mL
   IVF:
                                                                    610 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,070 mL
   Urine:
                                                                  3,700 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.46/37/84.[**Numeric Identifier 1000**]/25/2
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   left-sided ant-lat crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  left foot cooler than right.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   238 K/uL
   8.6 g/dL
   134 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   20 mg/dL
   117 mEq/L
   149 mEq/L
   25.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2192-9-30**]  04:32 PM
                            [**2192-10-1**]  05:15 AM
                            [**2192-10-1**]  05:28 AM
                            [**2192-10-1**]  03:06 PM
                            [**2192-10-2**]  02:09 AM
                            [**2192-10-2**]  02:58 AM
                            [**2192-10-2**]  06:08 AM
                            [**2192-10-2**]  01:52 PM
                            [**2192-10-2**]  05:55 PM
                            [**2192-10-3**]  05:14 AM
   WBC
   10.0
   12.5
   Hct
   25.5
   24.9
   25.2
   Plt
   191
   238
   Cr
   1.1
   1.1
   1.1
   1.0
   0.8
   TCO2
   22
   23
   27
   27
   27
   Glucose
   118
   142
   137
   114
   134
   Other labs: PT / PTT / INR:15.0/28.1/1.3, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Fibrinogen:532 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension. Lactate 2.0
   has now trended down to 0.9.  Had been on Zosyn, Levofloxacin and
   Vancomycin, but Zosyn and Levo stopped on [**9-30**], now just Vancomycin
   given source of sepsis.  Day #7 of Vancomycin.  Recent sputum continues
   to show GPCs on gram stain.  Echo shows aortic valve thickening and
   cardiology recommends TEE.  WBC trending up with differential pending
   today.
   - Cont. Vancomycin for MRSA in blood and sputum
   - Surveillance cx
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE, also may not change course of therapy
   given MRSA bactermia.
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Pt continues to be febrile, CXR not improved overall.
   ?parapneumonic effusion; although bilateral.  Not likely to be
   cardiogenic given that pt has good systolic function on recent echo.
   - Cont. vancomycin as above
   - Bedside ultrasound today to assess pleural effusions; consider
   thoracentesis if large
   - Elevate head of bed and chest PT
   - Cont. diuresis with goal -1L today, PM lytes
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Trending down, currently 23.4 today. No
   sign of overt bleeding w/o hematemasis, melena or tender abdomen.
   However, mildly Guiac +.Last transfused [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S, will check HCT tonight and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO: Abdominal exam benign
   - surgery  following, abdomen bengin
   ..
   # Hx depression:
   - cont venlaflaxine
   - will confirm Klonopin
   .
   # FEN: Tube feeds / Replete PRN/ Bolus NS to keep CVP 8-12. Tube feeds
   started [**9-30**];  Free water boluses increased to 250ml q 4 hours,
   hypernatremia correcting with sodium 147 today.
   .
   #. Code: Full Code
   .
   # Access: PICC placed [**10-1**]; A-line
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-3**] 02:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-9-29**] 02:16 PM
   PICC Line - [**2192-10-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-03 12:00:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with h/o prostate CA p/w  MRSA sepsis, and now with volume
   overload.  Prior SBO and incarcerated hernia repair.  Has had
   persistently poor MS during this admission.
   24 Hour Events:
 MULTI LUMEN - STOP [**2192-10-2**] 04:00 PM
   placed without too much difficulty
   Pt had a small run of VT when line was being placed, stopped as soon as
   line was re-inserted.
 SPUTUM CULTURE - At [**2192-10-2**] 05:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2192-9-30**] 05:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-10-1**] 08:00 AM
   Vancomycin - [**2192-10-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-3**] 12:37 AM
   Pantoprazole (Protonix) - [**2192-10-3**] 12:43 AM
   Other medications:
   SSI
   Lasix
   midodrine
   effexor
   protonix
   haldol
   vitamin D/calcium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-3**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 86 (80 - 92) bpm
   BP: 106/43(69) {106/38(61) - 141/62(93)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (6 - 9)mmHg
   Total In:
                                                                  2,893 mL
                                                                  1,284 mL
   PO:
   TF:
                                                                  1,173 mL
                                                                    642 mL
   IVF:
                                                                    610 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,258 mL
   Urine:
                                                                  3,700 mL
                                                                  1,258 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -807 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.46/37/84.[**Numeric Identifier 1000**]/28/2
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, sleeping, poorly responsive.
   Labs / Radiology
   8.1 g/dL
   237 K/uL
   133 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   19 mg/dL
   113 mEq/L
   147 mEq/L
   23.4 %
   13.2 K/uL
        [image002.jpg]
                            [**2192-10-1**]  05:15 AM
                            [**2192-10-1**]  05:28 AM
                            [**2192-10-1**]  03:06 PM
                            [**2192-10-2**]  02:09 AM
                            [**2192-10-2**]  02:58 AM
                            [**2192-10-2**]  06:08 AM
                            [**2192-10-2**]  01:52 PM
                            [**2192-10-2**]  05:55 PM
                            [**2192-10-3**]  05:00 AM
                            [**2192-10-3**]  05:14 AM
   WBC
   10.0
   12.5
   13.2
   Hct
   24.9
   25.2
   23.4
   Plt
   191
   238
   237
   Cr
   1.1
   1.1
   1.0
   0.8
   0.8
   TCO2
   22
   23
   27
   27
   27
   Glucose
   142
   137
   114
   134
   133
   Other labs: PT / PTT / INR:13.8/25.8/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Fibrinogen:532 mg/dL,
   Lactic Acid:0.8 mmol/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: b/l pleural effusions, R>L
   Microbiology: [**9-29**] MRSA
   negative since.
   [**9-28**]:  Urine cx with urine
   [**9-28**] sputum cx:  with MRSA
   Assessment and Plan
   Respiratory distress:  MRSA PNA with sepsis.  Also is fluid overloaded
   with large b/l effusions and possibly aspirating.   RA sat is 88% which
   is improved.  Wean oxygen.
   hypervolemia:  Continue to diuresis
   Delirium/poor MS:  Likely poor secretion clearance and aspriation
   playing a role in hypoxemia
 .H/O ANEMIA, OTHER:  No frank GIB or other hemorrhage site, follow
   for now.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Continued fevers, will tap left effusion to r/o infected effusion.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-3**] 02:28 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-9-29**] 02:16 PM
   PICC Line - [**2192-10-1**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2192-10-04 05:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-10-3**] 09:00 AM
   aline
 URINE CULTURE - At [**2192-10-3**] 10:15 AM
 ULTRASOUND - At [**2192-10-3**] 04:31 PM
   bedside U/S
 THORACENTESIS - At [**2192-10-3**] 04:38 PM
 BLOOD CULTURED - At [**2192-10-3**] 05:00 PM
   PICC
 STOOL CULTURE - At [**2192-10-3**] 09:15 PM
   for c. diff
 BLOOD CULTURED - At [**2192-10-4**] 03:00 AM
   PICC
 FEVER - 102.0
F - [**2192-10-3**] 09:00 AM; and again 101.4 [**2192-10-4**] 03:00
   AM
   - thoracentesis performed ~750 cc
 transudate
   - lasix 20 mg IV x2 to diurese, but almost net even
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-10-1**] 08:00 AM
   Vancomycin - [**2192-10-3**] 08:08 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-3**] 09:15 PM
   Pantoprazole (Protonix) - [**2192-10-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-4**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.8
C (100.1
   HR: 91 (81 - 94) bpm
   BP: 99/36(50) {99/36(50) - 99/36(50)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,425 mL
                                                                    875 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    305 mL
   IVF:
                                                                    336 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  3,768 mL
                                                                    495 mL
   Urine:
                                                                  3,018 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
                                                                    750 mL
   Balance:
                                                                   -343 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.50/41/101/29/7
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   249 K/uL
   8.4 g/dL
   133 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   20 mg/dL
   108 mEq/L
   145 mEq/L
   24.1 %
   14.1 K/uL
        [image002.jpg]
                            [**2192-10-2**]  06:08 AM
                            [**2192-10-2**]  01:52 PM
                            [**2192-10-2**]  05:55 PM
                            [**2192-10-3**]  05:00 AM
                            [**2192-10-3**]  05:14 AM
                            [**2192-10-3**]  04:32 PM
                            [**2192-10-3**]  05:43 PM
                            [**2192-10-3**]  06:05 PM
                            [**2192-10-4**]  03:00 AM
                            [**2192-10-4**]  03:09 AM
   WBC
   13.2
   14.1
   Hct
   23.4
   24.0
   24.1
   Plt
   237
   249
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   27
   27
   27
   31
   33
   Glucose
   134
   133
   119
   133
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Differential-Neuts:82.0
   %, Band:2.0 %, Lymph:10.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:532
   mg/dL, Lactic Acid:0.8 mmol/L, LDH:342 IU/L, Ca++:7.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   [**2192-10-2**] sputum gram stain 4+GPCs and 2+ yeast, culture coag + Staph.
   Aureus
   Right-sided pleural fluid
 no microbes on gram stain; protein 1.7; LDH
   191 (serum 342); 205 WBC, 645 RBCs, 51% polys, 31% lymphs, 16% monos,
   2% mesos
   CXR [**2192-10-3**] post procedure: improvement in right-sided pleural
   effusion, no pneumothorax.
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #8 of
   Vancomycin.  Recent sputum continues to show GPCs on gram stain.  Echo
   shows aortic valve thickening and cardiology recommends TEE.  As
   patient will require prolonged antibiotics, and would not tolerate this
   procedure well currently (would likely require intubation), will wait
   on TEE until clinical status improves.  WBC count continues to trend up
   and patient still spiking fevers.  Source of ongoing infection unclear
 empyema vs. heart valve vs. small bowel vs. joint?  Thoracentesis
   yesterday c/w transudate and not exudate or empyema, though pt. does
   have another pleural effusion on the opposite side.
   - Repeat CXR this morning.
   - Request ID consult with question of switching to linezolid for better
   lung penetration given MRSA pneumonia; or switching to another more
   bacteriocidal drug.
   - Continue surveillance cx, no growth from [**9-30**] on
   - Thoracentesis today on left-sided pleural effusion
 gram stain,
   culture, & fluid analysis
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE, also may not change course of therapy
   given MRSA bactermia.
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia improved after thoracentesis.
   - Thoracentesis on left-sided pleural effusion
   - Elevate head of bed and chest PT
   - Cont. diuresis with goal of net even today, PM lytes
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   - stop effexor given underlying confusion and desire to treat with
   linezolid.
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO: Tender abdominal this morning.  Tolerating tube feeds.  C.
   diff neg.
   - KUB today
   - surgery  following,
   .
   # Hx depression:
   - stop  venlaflaxine as above
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ Free
   water boluses at 250ml q 4 hours with resolving  hypernatremia.
   .
   #. Code: Full Code
   .
   # Access: PICC placed [**10-1**]; A-line
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-3**] 05:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-9-29**] 02:16 PM
   PICC Line - [**2192-10-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-05 05:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   ID Consult - vanc level checked, recommended d/c A-line and replacing,
   imaging spine, eval for prostatitis, rpt [**Female First Name (un) 217**], RUQ U/S, repeat
   cultures from peripheral and PICC
   [**Female First Name (un) **] not done - not enough fluid
   Got 40mg IV Lasix at 8pm for diuresis
   KUB done - no evidence of SBO or dilated loops of bowel
 BLOOD CULTURED - At [**2192-10-4**] 10:00 PM
   Both PICC line and venipuncture
 FEVER - 101.1
F - [**2192-10-4**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-4**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-4**] 12:00 PM
   Furosemide (Lasix) - [**2192-10-4**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-5**] 04:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.7
C (99.8
   HR: 84 (81 - 119) bpm
   BP: 101/40(63) {79/32(51) - 131/56(84)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,530 mL
                                                                    823 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    273 mL
   IVF:
                                                                    490 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    440 mL
   Urine:
                                                                  1,920 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,610 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.49/41/120/30/8
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   239 K/uL
   6.9 g/dL
   125 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   20.4 %
   15.4 K/uL
        [image002.jpg]
                            [**2192-10-3**]  05:14 AM
                            [**2192-10-3**]  04:32 PM
                            [**2192-10-3**]  05:43 PM
                            [**2192-10-3**]  06:05 PM
                            [**2192-10-4**]  03:00 AM
                            [**2192-10-4**]  03:09 AM
                            [**2192-10-4**]  11:13 AM
                            [**2192-10-4**]  01:09 PM
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
   WBC
   14.1
   15.4
   Hct
   24.0
   24.1
   20.4
   Plt
   249
   239
   Cr
   0.8
   0.8
   0.8
   TCO2
   27
   31
   33
   29
   30
   32
   Glucose
   119
   133
   125
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, Alk Phos / T Bili:/0.4, Differential-Neuts:82.0
   %, Band:2.0 %, Lymph:10.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:532
   mg/dL, Lactic Acid:1.4 mmol/L, LDH:342 IU/L, Ca++:7.3 mg/dL, Mg++:2.0
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #8 of
   Vancomycin.  Recent sputum continues to show GPCs on gram stain.  Echo
   shows aortic valve thickening and cardiology recommends TEE.  As
   patient will require prolonged antibiotics, and would not tolerate this
   procedure well currently (would likely require intubation), will wait
   on TEE until clinical status improves.  WBC count continues to trend up
   and patient still spiking fevers.  Source of ongoing infection unclear
 empyema vs. heart valve vs. small bowel vs. joint?  Thoracentesis
   yesterday c/w transudate and not exudate or empyema, though pt. does
   have another pleural effusion on the opposite side.
   - Repeat CXR this morning.
   - Request ID consult with question of switching to linezolid for better
   lung penetration given MRSA pneumonia; or switching to another more
   bacteriocidal drug.
   - Continue surveillance cx, no growth from [**9-30**] on
   - Thoracentesis today on left-sided pleural effusion
 gram stain,
   culture, & fluid analysis
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE, also may not change course of therapy
   given MRSA bactermia.
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia improved after thoracentesis.
   - Thoracentesis on left-sided pleural effusion
   - Elevate head of bed and chest PT
   - Cont. diuresis with goal of net even today, PM lytes
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   - stop effexor given underlying confusion and desire to treat with
   linezolid.
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO: Tender abdominal this morning.  Tolerating tube feeds.  C.
   diff neg.
   - KUB today
   - surgery  following,
   .
   # Hx depression:
   - stop  venlaflaxine as above
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ Free
   water boluses at 250ml q 4 hours with resolving  hypernatremia.
   .
   #. Code: Full Code
   .
   # Access: PICC placed [**10-1**]; A-line
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-5**] 12:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2192-9-29**] 02:16 PM
   PICC Line - [**2192-10-1**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-06 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A-line d/c + cultured
   - Back/neck exam = non-focal, groaned throughout
   - Stool cultures and cdiff sent
   - Prostate exam: smooth, enlarged, nontender; guaiac positive.
   - Post-transfusion HCT: 23.5.
   - ID deferred use of Linezolid
   - Dobhoff placed and placement needs confirmation.
 ARTERIAL LINE - STOP [**2192-10-5**] 12:03 PM
 PICC LINE - STOP [**2192-10-5**] 10:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-5**] 08:05 AM
   Ceftriaxone - [**2192-10-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-6**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (76 - 93) bpm
   BP: 99/37(52) {94/22(40) - 127/52(70)} mmHg
   RR: 16 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,257 mL
                                                                     50 mL
   PO:
             TF:
                                                                    827 mL
   IVF:
                                                                    380 mL
                                                                     50 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,240 mL
                                                                    245 mL
   Urine:
                                                                  1,240 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,017 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   264 K/uL
   8.1 g/dL
   125 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   23.5 %
   18.1 K/uL
        [image002.jpg]
                            [**2192-10-3**]  04:32 PM
                            [**2192-10-3**]  05:43 PM
                            [**2192-10-3**]  06:05 PM
                            [**2192-10-4**]  03:00 AM
                            [**2192-10-4**]  03:09 AM
                            [**2192-10-4**]  11:13 AM
                            [**2192-10-4**]  01:09 PM
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
   WBC
   14.1
   15.4
   18.1
   Hct
   24.0
   24.1
   20.4
   23.5
   Plt
   249
   239
   264
   Cr
   0.8
   0.8
   0.8
   TCO2
   31
   33
   29
   30
   32
   Glucose
   119
   133
   125
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:89.4 %, Band:2.0 %, Lymph:6.2 %, Mono:3.7 %, Eos:0.4
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.4 mmol/L, LDH:342 IU/L, Ca++:7.3
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #9 of
   Vancomycin.  Recent sputum continues to show GPCs on gram stain.  Echo
   shows aortic valve thickening and cardiology recommends TEE.  As
   patient will require prolonged antibiotics, and would not tolerate this
   procedure well currently (would likely require intubation), will wait
   on TEE until clinical status improves.  WBC count continues to trend up
   and patient still spiking fevers.  Source of ongoing infection unclear
 empyema vs. heart valve vs. small bowel vs. joint?  Thoracentesis
   yesterday c/w transudate, though pt. does have another pleural effusion
   on the opposite side.
   - ID consult: of the recommendations given by the ID team, the tests
   that can be done safely include the blood and stool cultures,  prostate
   exam, a bedside RUQ ultrasound looking for pathology that would require
   a formal study, changing the A-line and culturing the tip.
   - Will re-address issue of treating with Linezolid with the ID team.
   - Continue to follow cultures and gram stains.
   - Re-considering thoracentesis and will reassess with bedside
   ultrasound.
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE, also may not change course of therapy
   given MRSA bacteremia.
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia improved after thoracentesis.
   - Reconsider thoracentesis with bedside ultrasound.
   - Elevate head of bed and chest PT
   - Cont. diuresis with net even goal, PM lytes
   - Will rpt CXR if respiratory status changes in the AM.
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO: Tender abdominal this morning.  Tolerating tube feeds.  C.
   diff neg.
   - KUB today
   - surgery  following,
   .
   # Hx depression:
   - stop  venlaflaxine as above
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ no
   more free water boluses.
   .
   #. Code: Full Code
   .
   # Access: PICC placed [**10-1**]; A-line
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-5**] 11:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-06 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 prostate CA, MRSA sepsis, with ongoing bacteremia, volume overload.
   Tenuous respiratory status.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2192-10-5**] 12:03 PM
 PICC LINE - STOP [**2192-10-5**] 10:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-6**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-6**] 07:55 AM
   Other medications:
   SSI
   midodrine
   haldol
   vitamin D
   CaCO3
   B6
   fish oil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-6**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 90 (76 - 93) bpm
   BP: 112/34(51) {94/22(40) - 127/52(70)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,257 mL
                                                                    200 mL
   PO:
             TF:
                                                                    827 mL
   IVF:
                                                                    380 mL
                                                                    200 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,240 mL
                                                                    535 mL
   Urine:
                                                                  1,240 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,017 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Cool, Sacral ulcer
   Neurologic: Follows simple commands, lethargic, but follows some
   commands and answers questions
   Labs / Radiology
   7.9 g/dL
   277 K/uL
   100 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   23.4 %
   17.2 K/uL
        [image002.jpg]
                            [**2192-10-3**]  06:05 PM
                            [**2192-10-4**]  03:00 AM
                            [**2192-10-4**]  03:09 AM
                            [**2192-10-4**]  11:13 AM
                            [**2192-10-4**]  01:09 PM
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
                             [**2192-10-6**]  03:42 AM
                             [**2192-10-6**]  06:14 AM
   WBC
   14.1
   15.4
   18.1
   17.2
   Hct
   24.1
   20.4
   23.5
   23.4
   Plt
   249
   239
   264
   277
   Cr
   0.8
   0.8
   0.8
   TCO2
   31
   33
   29
   30
   32
   Glucose
   133
   125
   100
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:89.4 %, Band:2.0 %, Lymph:6.2 %, Mono:3.7 %, Eos:0.4
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.4 mmol/L, LDH:342 IU/L, Ca++:7.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOXEMIA/Respiratory distress:  Poor secretion clearance, poor MS.
   Diurese to improve fluid overload
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Slow improvement.
 MRSA sepsis:  Lines removed:  Will monitor, if continues febrile and
   bacteremic - consider more extensive w/u with CT scans/MRI.   Hold off
   on TEE has his respiratory status is tenuous
   Hypervolemia:  Diurese 1 L
 Sacral Decube care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-5**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-10-07 05:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2192-10-6**] 10:45 AM
   Lasix limited due to hypotension yesterday, received 250cc NS bolus.
   Blood culture from [**10-4**] growing coag+ Staph aureus
   Speech & swallow eval requested
   A-line pulled with no growth at catheter tip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-6**] 07:55 AM
   Furosemide (Lasix) - [**2192-10-6**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-7**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 99 (75 - 99) bpm
   BP: 116/40(59) {80/29(41) - 126/49(65)} mmHg
   RR: 32 (13 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,969 mL
                                                                    307 mL
   PO:
             TF:
                                                                    748 mL
                                                                    252 mL
   IVF:
                                                                    797 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    255 mL
   Urine:
                                                                  1,370 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    599 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   315 K/uL
   8.3 g/dL
   123 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.5 mEq/L
   24 mg/dL
   104 mEq/L
   139 mEq/L
   25.2 %
   14.8 K/uL
        [image002.jpg]
                            [**2192-10-4**]  03:09 AM
                            [**2192-10-4**]  11:13 AM
                            [**2192-10-4**]  01:09 PM
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
                             [**2192-10-6**]  03:42 AM
                             [**2192-10-6**]  06:14 AM
                             [**2192-10-6**]  02:31 PM
                             [**2192-10-7**]  04:22 AM
   WBC
   15.4
   18.1
   17.2
   14.8
   Hct
   20.4
   23.5
   23.4
   25.2
   Plt
   [**Telephone/Fax (3) 3209**]15
   Cr
   0.8
   0.8
   0.9
   TCO2
   33
   29
   30
   32
   Glucose
   125
   100
   123
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:89.4 %, Band:2.0 %, Lymph:6.2 %, Mono:3.7 %, Eos:0.4
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.4 mmol/L, LDH:342 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #10 of
   Vancomycin.  Recent blood and sputum continues to show GPCs on gram
   stain.  WBC count continues to trend up and patient still spiking
   fevers.  Source of ongoing infection unclear
 appears to be persistent
   bacteremia despite vancomycin, possible endovascular source.
   - ID recs appreciated, suggesting TEE, MRI spine, Chest CT, repeat
   thoracentesis
   - will obtain CT Torso today to assess lung parenchyma and ?abdominal
   source of sepsis
   - will check ECG for PR prolongation or conduction abnormalities
   suggesting valvular abscess
   - obtain CT head today to assess for MS changes
   - will discuss with cardiology regarding utility of repeat TTE given
   poor image quality and recent L thoracentesis
   - Continue to follow cultures and gram stains.
   - Re-considering thoracentesis; although per CXR does not appear to be
   re-expanding
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE
   - Consider adding back Zosyn depending on CT results
   - Consider LP if no other source identified given MS changes
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia briefly improved after thoracentesis; however
   pt
s respiratory status continues to decline.
   - Elevate head of bed and chest PT
   - Cont. diuresis with net goal of -1-1.5L as tolerated by BP
   - f/u CT torso
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - f/u CT head
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO:  Tolerating tube feeds.  C. diff neg.  Having regular BMs.
   - continue to monitor
   .
   # Hx depression:
   - venlaflaxine stopped
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ no
   more free water boluses.
   .
   # Prophylaxis: SC Heparin, PPI, Bowel regimen
   .
   #. Code: Full Code
   .
   # Access: two peripheral IVs.
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-5**] 11:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-07 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with prostate CA, MRSA sepsis, fluid overload, tenuous
   respiratory status.
   24 Hour Events:
 BLOOD CULTURED - At [**2192-10-6**] 10:45 AM
   Overnight because hypotensive and required IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-10-6**] 12:00 PM
   Pantoprazole (Protonix) - [**2192-10-7**] 08:01 AM
   Other medications:
   SSI
   midodrine
   vitamin D/calcium
   B6, fish oil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-7**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 90 (75 - 100) bpm
   BP: 116/41(58) {80/29(41) - 116/44(59)} mmHg
   RR: 31 (13 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,062 mL
                                                                    985 mL
   PO:
             TF:
                                                                    840 mL
                                                                    634 mL
   IVF:
                                                                    797 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    490 mL
   Urine:
                                                                  1,370 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    692 mL
                                                                    495 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, responsds to voice, follows some commands, not
   interactive
   Labs / Radiology
   8.3 g/dL
   315 K/uL
   108 mg/dL
   0.9 mg/dL
   30 mEq/L
   5.1 mEq/L
   26 mg/dL
   101 mEq/L
   141 mEq/L
   25.2 %
   14.8 K/uL
        [image002.jpg]
                            [**2192-10-4**]  03:09 AM
                            [**2192-10-4**]  11:13 AM
                            [**2192-10-4**]  01:09 PM
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
                             [**2192-10-6**]  03:42 AM
                             [**2192-10-6**]  06:14 AM
                             [**2192-10-6**]  02:31 PM
                             [**2192-10-7**]  04:22 AM
   WBC
   15.4
   18.1
   17.2
   14.8
   Hct
   20.4
   23.5
   23.4
   25.2
   Plt
   [**Telephone/Fax (3) 3209**]15
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   33
   29
   30
   32
   Glucose
   125
   100
   123
   108
   Other labs: PT / PTT / INR:13.5/27.7/1.2, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:89.4 %, Band:2.0 %, Lymph:6.2 %, Mono:3.7 %, Eos:0.4
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.4 mmol/L, LDH:342 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK): Intermittently [**Name (NI) 3219**], unclear if he is
   devloping sepis - can expand antibiotic coverage - add zosyn.  Hold
   further lasix
 HYPOXEMIA/Respiratory Distress:  More hypoxemic today.  Check CXR
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   MRSA bacteremia:  Pic line tip cx pending.  Consider pan CT scans to
   look for abscesses.  Prior echo with thickened AV with 1-2+ AR, might
   be worthwhile to repeat.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-7**] 02:07 AM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-5**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2192-10-08 05:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continued to be febrile
   Added Zosyn yesterday for persistent fevers on tylenol
   Pt became hypotensive at 10pm. Received 2L NS with some effect. Central
   line placed in R IJ.
   Full body CT done
   Spoke w/Cards re: utility of repeating TTE given poor image quality;
   [**First Name8 (NamePattern2) 2453**] [**Last Name (NamePattern1) **] will speak w/attending ([**Doctor Last Name 3014**]), please page her before
   10am to discuss
   ECG done for ?conduction delays indicating abscess - nl
 EKG - At [**2192-10-7**] 12:08 PM
 EKG - At [**2192-10-7**] 06:25 PM
 MULTI LUMEN - START [**2192-10-8**] 01:00 AM
 BLOOD CULTURED - At [**2192-10-8**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-10-7**] 08:00 PM
   Cefipime - [**2192-10-8**] 01:30 AM
   Ciprofloxacin - [**2192-10-8**] 02:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-7**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2192-10-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-8**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 105 (77 - 109) bpm
   BP: 119/37(58) {77/24(38) - 121/67(79)} mmHg
   RR: 16 (14 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  5,662 mL
                                                                    602 mL
   PO:
   TF:
                                                                  1,102 mL
                                                                    239 mL
   IVF:
                                                                  3,450 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    230 mL
   Urine:
                                                                  1,125 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,537 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   354 K/uL
   8.1 g/dL
   114 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   24.2 %
   14.2 K/uL
        [image002.jpg]
                            [**2192-10-4**]  06:41 PM
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
                             [**2192-10-6**]  03:42 AM
                             [**2192-10-6**]  06:14 AM
                             [**2192-10-6**]  02:31 PM
                             [**2192-10-7**]  04:22 AM
                             [**2192-10-7**]  05:45 PM
                             [**2192-10-7**]  11:00 PM
                             [**2192-10-8**]  04:00 AM
   WBC
   15.4
   18.1
   17.2
   14.8
   14.2
   Hct
   20.4
   23.5
   23.4
   25.2
   24.6
   24.2
   Plt
   [**Telephone/Fax (3) 3209**]15
   354
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.9
   TCO2
   32
   Glucose
   125
   100
   123
   108
   115
   114
   Other labs: PT / PTT / INR:14.7/31.2/1.3, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:90.8 %, Band:2.0 %, Lymph:6.0 %, Mono:2.8 %, Eos:0.2
   %, Fibrinogen:532 mg/dL, Lactic Acid:0.9 mmol/L, LDH:342 IU/L, Ca++:7.3
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #10 of
   Vancomycin.  Recent blood and sputum continues to show GPCs on gram
   stain.  WBC count continues to trend up and patient still spiking
   fevers.  Source of ongoing infection unclear
 appears to be persistent
   bacteremia despite vancomycin, possible endovascular source.
   - ID recs appreciated, suggesting TEE, MRI spine, Chest CT, repeat
   thoracentesis
   - will obtain CT Torso today to assess lung parenchyma and ?abdominal
   source of sepsis
   - will check ECG for PR prolongation or conduction abnormalities
   suggesting valvular abscess
   - obtain CT head today to assess for MS changes
   - will discuss with cardiology regarding utility of repeat TTE given
   poor image quality and recent L thoracentesis
   - Continue to follow cultures and gram stains.
   - Re-considering thoracentesis; although per CXR does not appear to be
   re-expanding
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE
   - Consider adding back Zosyn depending on CT results
   - Consider LP if no other source identified given MS changes
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia briefly improved after thoracentesis; however
   pt
s respiratory status continues to decline.
   - Elevate head of bed and chest PT
   - Cont. diuresis with net goal of -1-1.5L as tolerated by BP
   - f/u CT torso
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery
   - Will continue to tx underlying cause
   - f/u CT head
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO:  Tolerating tube feeds.  C. diff neg.  Having regular BMs.
   - continue to monitor
   .
   # Hx depression:
   - venlaflaxine stopped
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ no
   more free water boluses.
   .
   # Prophylaxis: SC Heparin, PPI, Bowel regimen
   .
   #. Code: Full Code
   .
   # Access: two peripheral IVs.
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-8**] 01:00 AM 55.[**Numeric Identifier 3232**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-7**] 09:00 PM
   Multi Lumen - [**2192-10-8**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-09 04:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episodes of fluid responsive hypotension (80s/40s)
   - ID approved cefepime: for broad coverage of PNA, proctitis and
   endocarditis
           + ID suggested adding Gentamicin
           + Suggested holding off on prostate ultrasound, will discuss
   and recommunicate with MICU team.
   - Follow up new sensitivities
   - Discussed with cards re: rpt echo
 TRANSTHORACIC ECHO - At [**2192-10-8**] 02:30 PM
          + "Compared with the prior study (images reviewed) of
   [**2192-10-1**], a large vegetation is now visualized on the aortic valve
   (vs. focally thickened non-coronary leaflet). The severity of aortic
   regurgitation is slightly increased. The left ventricular systolic
   dysfunction also appears new ?emboli to coronary arteries?"
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2192-10-8**] 08:27 PM
   Vancomycin - [**2192-10-8**] 09:30 PM
   Cefipime - [**2192-10-9**] 12:00 AM
   Ciprofloxacin - [**2192-10-9**] 03:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-10-8**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-10-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-9**] 04:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.6
   HR: 82 (80 - 141) bpm
   BP: 90/38(49) {82/27(41) - 131/63(78)} mmHg
   RR: 20 (16 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (2 - 17)mmHg
   Total In:
                                                                  4,743 mL
                                                                    600 mL
   PO:
   TF:
                                                                  1,288 mL
                                                                    254 mL
   IVF:
                                                                  3,325 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                     60 mL
   Urine:
                                                                  1,080 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,663 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, Trace edema BL
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   310 K/uL
   7.1 g/dL
   142 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.2 mEq/L
   28 mg/dL
   107 mEq/L
   138 mEq/L
   21.4 %
   17.6 K/uL
        [image002.jpg]
                            [**2192-10-5**]  03:25 AM
                            [**2192-10-5**]  04:16 PM
                             [**2192-10-6**]  03:42 AM
                             [**2192-10-6**]  06:14 AM
                             [**2192-10-6**]  02:31 PM
                             [**2192-10-7**]  04:22 AM
                             [**2192-10-7**]  05:45 PM
                             [**2192-10-7**]  11:00 PM
                             [**2192-10-8**]  04:00 AM
                             [**2192-10-9**]  03:00 AM
   WBC
   15.4
   18.1
   17.2
   14.8
   14.2
   17.6
   Hct
   20.4
   23.5
   23.4
   25.2
   24.6
   24.2
   21.4
   Plt
   [**Telephone/Fax (2) 3252**]
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.9
   1.0
   Glucose
   125
   100
   123
   108
   115
   114
   142
   Other labs: PT / PTT / INR:14.7/31.2/1.3, CK / CKMB /
   Troponin-T:120/6/0.09, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:90.8 %, Band:2.0 %, Lymph:6.0 %, Mono:2.8 %, Eos:0.2
   %, Fibrinogen:532 mg/dL, Lactic Acid:0.9 mmol/L, LDH:342 IU/L, Ca++:7.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis: MRSA sepsis with fever, hypoxia, and hypotension.  Had been
   on Zosyn, Levofloxacin and Vancomycin, but Zosyn and Levo stopped on
   [**9-30**], now just Vancomycin given source of sepsis.  Day #11 of
   Vancomycin.  Recent blood and sputum continues to show GPCs on gram
   stain.  WBC count continues to trend up and patient still spiking
   fevers.  Source of ongoing infection unclear
 appears to be persistent
   bacteremia despite vancomycin, possible endovascular source.  ECG
   showing no conduction abnormalities to suggest valvular abscess.  Also
   CT showing proctitis and many prostate mets.  Hypotension appears to be
   worsening.  Patient is persistently febrile and hypoxic.
   - ID recs appreciated
   - will discuss with cardiology regarding utility of repeat TTE given
   poor image quality and recent L thoracentesis. However, unsure whether
   this would change management.
   - Continue to follow cultures and gram stains.
   - Hold off on TEE for now, given poor respiratory status and likely
   need for intubation with TEE
   - Continue Vanc/Cefepime/Cipro for now
   - maintain BPs with fluids and if necessary pressors
   - will consider prostate u/s to look for MRSA abscess.
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia briefly improved after thoracentesis; however
   now reaccumulated. Pt
s respiratory status continues to slowly decline.
   - Elevate head of bed and chest PT
   - Will hold off on diuresis today given hypotension
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery. Head CT negative.
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will continue to monitor for bleeding and trend HCT
   - maintain active T&S and transfuse of <21
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO:  Tolerating tube feeds.  C. diff neg.  Having regular BMs.
   - continue to monitor
   .
   # Hx depression:
   - venlaflaxine stopped
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ no
   more free water boluses.
   .
   # Prophylaxis: SC Heparin, PPI, Bowel regimen
   .
   #. Code: Full Code
   .
   # Access: two peripheral IVs.
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-10-9**] 12:36 AM 55 mL/hour
   Lines:
   18 Gauge - [**2192-10-7**] 09:00 PM
   Multi Lumen - [**2192-10-8**] 01:00 AM

2192-10-10 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2192-10-9**] 02:55 PM
   LENIS R LEG
 EKG - At [**2192-10-10**] 01:04 AM
 ARTERIAL LINE - START [**2192-10-10**] 02:00 AM
 BLOOD CULTURED - At [**2192-10-10**] 04:00 AM
 URINE CULTURE - At [**2192-10-10**] 04:56 AM
 FEVER - 103.4
F - [**2192-10-10**] 02:00 AM
   - Intubated for increasing O2 requirements and tachypnea
   - Levophed started, A-line placed
   - urine output fell overnight
   - Fever 103
   - Transfused 2 units pRBCs
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] willing to operate thursday
   - GI prefers not to scope, but will do EGD if necessary for surgery
   - Per daughter, his prostate cancer was well controlled, nearly in
   remission
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2192-10-9**] 12:00 AM
   Ciprofloxacin - [**2192-10-9**] 03:21 AM
   Gentamicin - [**2192-10-9**] 08:00 AM
   Vancomycin - [**2192-10-9**] 08:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-9**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-10**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.1
C (102.4
   HR: 135 (93 - 146) bpm
   BP: 147/94(112) {109/40(65) - 147/94(112)} mmHg
   RR: 21 (17 - 46) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 15 (6 - 19)mmHg
   Total In:
                                                                  2,378 mL
                                                                    143 mL
   PO:
   TF:
                                                                  1,209 mL
   IVF:
                                                                    841 mL
                                                                    143 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                    580 mL
                                                                    155 mL
   Urine:
                                                                    580 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,798 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.39/39/238/21/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 595
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, 1+ edema R> L
   Skin:  warm.
   Neurologic: Responds to: Verbal stimuli.
   Labs / Radiology
   355 K/uL
   8.7 g/dL
   119 mg/dL
   1.4 mg/dL
   21 mEq/L
   6.2 mEq/L
   47 mg/dL
   104 mEq/L
   133 mEq/L
   25.7 %
   18.2 K/uL
        [image002.jpg]
                             [**2192-10-7**]  04:22 AM
                             [**2192-10-7**]  05:45 PM
                             [**2192-10-7**]  11:00 PM
                             [**2192-10-8**]  04:00 AM
                             [**2192-10-9**]  03:00 AM
                             [**2192-10-9**]  10:03 PM
                             [**2192-10-9**]  10:20 PM
                             [**2192-10-10**]  12:47 AM
                             [**2192-10-10**]  03:14 AM
                             [**2192-10-10**]  04:02 AM
   WBC
   14.8
   14.2
   17.6
   18.2
   Hct
   25.2
   24.6
   24.2
   21.4
   25.7
   Plt
   [**Telephone/Fax (3) 3291**]55
   Cr
   0.9
   0.9
   0.9
   1.0
   1.4
   TropT
   0.19
   0.31
   TCO2
   25
   24
   24
   Glucose
   108
   115
   114
   142
   119
   Other labs: PT / PTT / INR:14.6/28.0/1.3, CK / CKMB /
   Troponin-T:150/5/0.31, ALT / AST:22/24, Alk Phos / T Bili:102/0.2,
   Differential-Neuts:90.8 %, Band:2.0 %, Lymph:6.0 %, Mono:2.8 %, Eos:0.2
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.2 mmol/L, LDH:342 IU/L, Ca++:6.7
   mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presents with fevers, AMS
   and hypotension c/w sepsis.
   .
   # Sepsis [**1-7**] MRSA bacteremia and aortic valve vegatation: MRSA sepsis
   with fever, hypoxia, and hypotension.  Had been on Zosyn, Levofloxacin
   and Vancomycin, but Zosyn and Levo stopped on [**9-30**], now just
   Vancomycin given source of sepsis.  Day #12 of Vancomycin.  TTE
   confirms large vegetation on valve.  Gentamycin added for synergy.  Pt
   has been hypotensive but responds to fluids, 3L positive yesterday.  Pt
   is not a surgical candidate.  Will discuss with family regarding
   further management.
   - ID recs appreciated
   - Continue Vanc and [**Last Name (LF) **], [**First Name3 (LF) **] check [**First Name3 (LF) **] peak and trough, d/c Cefepime
   and Cipro
   - continue surveillance cultures once a day
   - will discuss with family regarding further care and potential for
   surgery
   - if hypotensive will start levophed as pt is currently fluid
   resuscitated
   .
   #. Hypoxia: [**Month (only) 51**] be a combination of MRSA pneumonia and plural
   effusions.  Likely not pulmonary edema given CXR after thoracentesis.
   Not likely to be cardiogenic given that pt has good systolic function
   on recent echo.  Hypoxia briefly improved after thoracentesis; however
   now reaccumulated. Pt
s respiratory status continues to slowly decline.
   - Elevate head of bed and chest PT
   - will start nebs today
   .
   # RLE Edema: R>L edema concerning for clot.  Pt is on DVT prophylaxis
   with SC heparin and pneumoboots
   - LENI RLE
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery. Head CT negative.
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Last transfused
   [**9-29**] 2am.
   - will transfuse 1 unit PRBCs for symptomatic benefit
   .
   # Elevated Troponin: Likely  demand ischemia in the setting of
   hypotension and anemia. No known hx of CAD or MI. EKG reassuring,
   although some non-specific Twave changes.  Holding BB, aspirin in
   setting of acute illness, hypotension, guiac positive. Troponin cycled
   and decreasing.
   - improve BP, transfuse for HCT<21
   .
   # ARF: resolved
   .
   # Early SBO:  Tolerating tube feeds.  C. diff neg.  Having regular BMs.
   - continue to monitor
   .
   # Hx depression:
   - venlaflaxine stopped
   .
   # FEN: Tolerating tube feeds (started [**9-30**]) / Replete lytes PRN/ no
   more free water boluses.
   .
   # Prophylaxis: SC Heparin, PPI, Bowel regimen
   .
   #. Code: Full Code
   .
   # Access: two peripheral IVs.
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-10-7**] 09:00 PM
   Multi Lumen - [**2192-10-8**] 01:00 AM
   Arterial Line - [**2192-10-10**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-11 06:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Cardiac cath is clean
   To OR in AM for valve repair
   both vanc and gent levels high in PM and doses were  held, per
   anesthesia will be dosed in OR
 SPUTUM CULTURE - At [**2192-10-10**] 08:50 AM
 CARDIAC CATH - At [**2192-10-10**] 02:59 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2192-10-9**] 12:00 AM
   Ciprofloxacin - [**2192-10-9**] 03:21 AM
   Vancomycin - [**2192-10-9**] 08:30 AM
   Gentamicin - [**2192-10-10**] 08:07 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-11**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.9
C (98.4
   HR: 89 (84 - 103) bpm
   BP: 106/39(61) {99/38(60) - 115/86(94)} mmHg
   RR: 9 (7 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  3,757 mL
                                                                    237 mL
   PO:
   TF:
   IVF:
                                                                  2,561 mL
                                                                    132 mL
   Blood products:
                                                                    836 mL
                                                                    105 mL
   Total out:
                                                                  2,090 mL
                                                                    200 mL
   Urine:
                                                                  2,065 mL
                                                                    200 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                  1,667 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.46/38/82.[**Numeric Identifier 143**]/27/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Thin, ill appearing, NGT in place, pt responds to
   some questions by shaking head, moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Heart sounds distant.  (S1: Normal), (S2: Normal), no
   murmurs appeciated
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse BL:
   ant-lat crackles)
   Abdominal: Soft, mildly tender, Bowel sounds present, but hypoactive.
   Midline scar appears well healed without s/s infection
   Ext:: Muscle wasting, 1+ edema R> L
   Skin:  cool but 2+pulses
   Neurologic: intubated and sedated
   Labs / Radiology
   305 K/uL
   11.0 g/dL
   99 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   42 mg/dL
   105 mEq/L
   141 mEq/L
   31.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2192-10-9**]  10:20 PM
                             [**2192-10-10**]  12:47 AM
                             [**2192-10-10**]  03:14 AM
                             [**2192-10-10**]  04:02 AM
                             [**2192-10-10**]  04:30 PM
                             [**2192-10-10**]  04:46 PM
                             [**2192-10-10**]  07:48 PM
                             [**2192-10-10**]  07:58 PM
                             [**2192-10-11**]  03:00 AM
                             [**2192-10-11**]  03:15 AM
   WBC
   18.2
   12.1
   12.6
   Hct
   25.7
   24.4
   27.7
   31.4
   Plt
   355
   287
   305
   Cr
   1.4
   1.2
   1.2
   TropT
   0.31
   TCO2
   25
   24
   24
   26
   28
   28
   Glucose
   119
   111
   99
   Other labs: PT / PTT / INR:14.7/29.7/1.3, CK / CKMB /
   Troponin-T:150/5/0.31, ALT / AST:112/91, Alk Phos / T Bili:246/0.5,
   Differential-Neuts:90.8 %, Band:2.0 %, Lymph:6.0 %, Mono:2.8 %, Eos:0.2
   %, Fibrinogen:532 mg/dL, Lactic Acid:1.2 mmol/L, LDH:379 IU/L, Ca++:7.7
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 A/P: 80 year old male with hx, CVA, SBO's, prostate CA, recently
   discharged after ventral hernia repair who presented with fevers, AMS
   and hypotension c/w sepsis, found to have aortic valve endocarditis.
   .
   # Sepsis [**1-7**] MRSA bacteremia and aortic valve vegatation: MRSA sepsis
   with fever, hypoxia, and hypotension.  Had been on Zosyn, Levofloxacin
   and Vancomycin, but Zosyn and Levo stopped on [**9-30**], now just
   Vancomycin given source of sepsis.  Day #13 of Vancomycin.  Gentamycin
   day #2 for synergy.  Pt has been hypotensive, now intubated, on
   Levophed for BP.  Per cardiac surgery.
   - Continue Vanc/Gent
 Vanc dose held today for trough of 30.  Will
   recheck trough in AM and redose then
   - continue surveillance cultures once a day
   - f/u sputum cultures
   - plan for AVR surgery in AM, cardiac cath today for evaluation of
   coronaries and valve
   .
   #. Hypoxia: Multifactorial with pleural effusions, pulmonary edema,
   possible infectious etiology.  Intubated last night for worsening
   respiratory status.
   - continue to support with mechanical ventilation, will continue for
   surgery tomorrow
   .
   # RLE Edema: R>L edema was concerning for clot but LENIs negative.  Pt
   is on DVT prophylaxis with SC heparin and pneumoboots.
   .
   # AMS: Likely multifactorial [**1-7**] infection, fever. Also unclear
   baseline since surgery. Head CT negative.
   - Will continue to tx underlying cause
   - haldol PRN as needed for agitation
   # Anemia: Baseline HCT 23-27. Stable at 24.9 today. No sign of overt
   bleeding, however, mildly Guiac + a few days ago.  Received 2 units
   PRBCs last night.  Getting additional 2 units this AM in anticipation
   for surgery.
   - continue to transfuse in anticipation for surgery
   .
   # Elevated Troponin: Troponins continuing to rise, no clear ECG changes
   although some T wave flattening on ECGs.  Pt may have septic emboli to
   coronaries given new wall motion abnormalities and reduced EF on recent
   echo.
   - hold off on aspirin, plavix, heparin in anticipation of surgery
   tomorrow
   - continue to monitor clinical picture
   - cardiac cath prior to surgery
   .
   # ARF: creatinine increased to 1.4 today, like from hypotension, poor
   perfusion
   - renal protective therapy with sodium bicarb and mucomyst
   - stop gent for now with cardiac cath pending, will restart post-op
   .
   # Early SBO:  Tolerating tube feeds.  C. diff neg.  Having regular BMs.
   - continue to monitor
   .
   # Hx depression:
   - venlaflaxine stopped
   .
   # FEN: Tolerating tube feeds, held in anticipation of surgery/ Replete
   lytes PRN/ no more free water boluses.
   .
   # Prophylaxis: SC Heparin, PPI, Bowel regimen
   .
   #. Code: Full Code
   .
   # Access: two peripheral IVs.
   .
   # Dispo: ICU
   .
   # Communication: daughter [**Name (NI) 2666**] [**Name (NI) 3002**] [**Telephone/Fax (1) 3003**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-10-8**] 01:00 AM
   Arterial Line - [**2192-10-10**] 02:00 AM
   20 Gauge - [**2192-10-10**] 06:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-10-19 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient pulled out his dubhoff tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2192-10-17**] 08:59 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-10-19**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-10-19**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 64 (64 - 76) bpm
   BP: 93/58(67) {77/45(55) - 101/72(76)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  2,001 mL
                                                                    261 mL
   PO:
   TF:
                                                                  1,341 mL
                                                                    111 mL
   IVF:
                                                                    470 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  3,375 mL
                                                                    560 mL
   Urine:
                                                                  3,025 mL
                                                                    560 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -1,374 mL
                                                                   -299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.47///29/
   Physical Examination
   VITALS: Tmax 98.2 BP 94/72(77/50-101/60) HR 60-70's RR 18 96% 3L NC
   24HR I/O: +700ml  LOS +18L
   GEN: sleeping, responds to voice, not following commands
   HEENT: pupils slightly assymetric, reactive to light bilaterally, NG
   tube in place
   RESP: coarse breath sounds, no significant wheezing
   Chest: midline sternotomy with clean, dry bandage in place
   CARD: RRR, no appreciable murmur over lung sounds
   ABD: well healed midline scar, appears to be diffusely tender with
   grimacing on exam, no significant distension, hypoactive bowel sounds
   EXTR: warm, 2+ pitting edema of LE bilaterally
   SKIN: no rashes
   Labs / Radiology
   242 K/uL
   9.1 g/dL
   103 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   32 mg/dL
   104 mEq/L
   137 mEq/L
   26.8 %
   8.7 K/uL
        [image002.jpg]
                            [**2192-10-16**]  08:20 PM
                            [**2192-10-17**]  12:50 AM
                            [**2192-10-17**]  03:25 AM
                            [**2192-10-17**]  02:27 PM
                            [**2192-10-17**]  09:01 PM
                            [**2192-10-18**]  05:00 AM
                            [**2192-10-18**]  05:07 AM
                            [**2192-10-18**]  05:54 AM
                            [**2192-10-18**]  02:19 PM
                            [**2192-10-19**]  04:16 AM
   WBC
   10.2
   10.1
   8.7
   Hct
   29.4
   29.9
   26.8
   Plt
   257
   271
   242
   Cr
   1.2
   1.2
   1.3
   TCO2
   24
   28
   25
   29
   26
   Glucose
   101
   107
   109
   103
   115
   98
   92
   103
   Other labs: PT / PTT / INR:14.3/35.8/1.2, , ALT / AST:24/16, Alk Phos /
   T Bili:106/0.2, Amylase / Lipase:41/43, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL; TSH - pending
   Assessment and Plan
   Mr. [**Known lastname 3002**] is an 80 year old male with PMH of CVA, SBO's, prostate CA
   with aortic valve endocarditis, now s/p aortic valve replacement with
   persistant delirium post-operatively.
   .
   # Delirium: Now that infection has cleared and the patient is on a
   stripped down medication regimen, delirium is most likely due to his
   prolonged ICU stay and critical illness.  Pain could also be
   contributing.  Does not appear to currently be infected.
   -treat pain with tylenol standing, low dose oxycodone if appears to be
   in pain.  He could have also flipped septic emboli off of his AV prior
   to AVR.
   -continue to hold other sedating medications
   -f/u culture data
   -continue with bowel regimen
   -consider head ct vs MRI.
   .
   #Aortic Valve Endocarditis - now s/p aortic valve replacement with
   porcine valve.  All blood cultures since surgery are without any
   growth.
   -continue linezolid for VISA/dapto intermed sensitivity staph
   -discuss w/ID course of abx therapy
   -follow serial blood cultures
   .
   #Lower extremity stiffness - according to ID notes there is concern
   that he could have epidural abscess [**1-7**] seeding from his endocarditis
   because has not been moving his lower extremitites independently.  He
   does not appear to have any evidence of cord involvement on exam
   although unable to do full neurological exam [**1-7**] delirium.  No evidence
   of continued infection based on blood cultures or other lab data
   although he is certainly at high risk given his persistent bacteremia
   preoperatively.
   -follow neuro exam daily
   -Check MRI spine and brain to eval for abscess/septic emboli
   .
   #Atrial fibrillation - he had Afib with RVR post-operatively for which
   he was started on amiodarone.  He is currently in NSR with rate in the
   60-70's.  He is also on low dose metoprolol.  LFT's have been stable
   since.  He has no h/o afib prior to surgery therefore may have been
   isolated event in setting of open heart surgery.
   - TSH pending
   -will need PFT's as outpatient
   -continue amiodarone 400mg daily  and decrease to 200 mg daily when
   loaded with 10 mg.
   -monitor on tele
   -discuss with CT [**Doctor First Name 213**] likelihood of Afib returning
   .
   #Volume Overload - he is about 18L + over his length of stay with
   significant pleural effusions and lower extremity edema.  Creatinine
   has been gradually creeping upward over the last several days.
   - will stop standing lasix and switch to a lasix drip for better
   ability to titrate diuresis.
   .
   #Abdominal discomfort - unclear etiology, he has had KUB and abdominal
   ultrasound which were unrevealing.  Possibly do to pain from stretching
   of his median sternotomy or pressure on his sacral decub with abdominal
   pressure.  Constipation and delayed gi transit also possible, though
   less likely given prior work-up.
   - continue bowel regimen
   - follow serial abdominal exams
   - low threshold to re-image abdomen
   .
   #Decubitus Ulcer - located on coccyx, followed by wound consult service
   with full recommendations in chart
   -continue w/wound care per recommendations
   -[**Doctor First Name 372**] air mattress
   .
   # Anemia: HCT 22 on admission with guaiac positive stools concerning
   for slow GI bleed.  He was transfused 9 units PRBC preoperatively.  HCT
   has been stable ~30 post op but dropped 3 units today.
   -check pm HCT
   - transfuse to keep hct > 25
   -further GI workup as indicated once improved
   .
   #Depression - Effexor stopped previously during this admission
   .
   # FEN: Replace dubhoff, resume tube feeds, replete lytes
   .
   # Access: R IJ, PICC line requested, will need to be performed by IR as
   IV team unable to place
   .
   # Dispo: Will consider call out to [**Hospital Ward Name 289**] 3 where lasix drip can be
   performed.
   .
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-10-11**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: